data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4221,4827,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([CH3:20])[n+:21]1[CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([O:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][C:19]2([CH3:20])[N:21]1[CH3:22],water,298.15,41.2417697793824,21.21837836695246
2082,2310,[CH3:17][C:18](=[O:19])[C:20]([CH3:21])=[N+:22]([CH3:23])[CH-:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([F:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([F:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:20]([C:18]([CH3:17])=[O:19])([CH3:21])[N:22]([CH3:23])[CH:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,10.531741908385618,-48.45250750907967
4492,5125,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:15][CH:16]1[C:17]#[N:18],water,298.15,9.01374799603778,-49.96736471323246
1282,1403,[CH3:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]#[N:19])[o:20][c:21]1=[O:22].[F:1][C:2]1([F:3])[C:4]#[C:5][CH:6]([Br:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([CH:6]([Br:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:17]1([C:18]#[N:19])[O:16][C:15]2([C:13]([CH3:12])=[O:14])[C:21](=[O:22])[O:20]1,water,298.15,11.741023057098136,-31.842178036939025
357,388,[CH3:1][C:2]#[C:3][C:4](=[O:5])[O:6][CH3:7].[CH3:8][N+:9](=[CH:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[C-:17]([C:18]#[N:19])[C:20]#[N:21]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[O:6][CH3:7])[CH:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:9]([CH3:8])[C:17]1([C:18]#[N:19])[C:20]#[N:21],water,298.15,19.083453157657765,-32.43480604453293
440,482,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][O:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:15]([C:16]([CH3:17])=[O:18])=[N:14][C:13]3([C:11]([O:10][CH3:9])=[O:12])[C:19]([CH3:20])=[O:21],water,298.15,12.749431503468164,-50.488133173737744
1412,1554,[CH3:16][O:17][C:18](=[O:19])[C-:20]([CH3:21])[N+:22]#[C:23][C:24]([CH3:25])=[O:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]([C:18]([O:17][CH3:16])=[O:19])([CH3:21])[N:22]=[C:23]2[C:24]([CH3:25])=[O:26],water,298.15,11.309186347652275,-29.747176482576307
3278,3714,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH:9]=[NH+:10][C-:11]([CH3:12])[C:13](=[O:14])[NH:15][CH3:16]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([CH3:12])([C:13](=[O:14])[NH:15][CH3:16])[NH:10][CH:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,22.140919461671004,-19.74464247766664
12,14,[CH3:4][O:5][C:6](=[O:7])[N-:8][NH+:9]=[C:10]([CH3:11])[C:12]#[N:13].[CH:1]#[C:2][CH3:3]>>[CH:1]1=[C:2]([CH3:3])[C:10]([CH3:11])([C:12]#[N:13])[NH:9][N:8]1[C:6]([O:5][CH3:4])=[O:7],water,298.15,30.62815208822521,-29.200615658139487
2235,2480,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[N+:19]([CH3:20])[C-:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]2([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,29.238833356718786,-21.2223571619834
3790,4340,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C:13](=[O+:14][C-:15]([CH3:16])[CH3:17])[C:18]([CH3:19])=[O:20]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:15]([CH3:16])([CH3:17])[O:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:18]([CH3:19])=[O:20],water,298.15,7.806714998375372,-36.9932997162448
775,838,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][NH:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])=[N:14][C:15]1([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23],water,298.15,10.464716439200362,-63.70450862971158
